US07595369B2
Norbornene (15.8 g, 168 mmol), methyl acrylate (10 mL, 112 mmol), and Di-t-butylperoxide (0.32 g, 2.2 mmol) were charged into a 250 mL Schlenk flask and dissolved in 30 mL of toluene. Ethylaluminum sesquichloride (0.277 g, 1.12 mmol) was charged into a 100 mL flask and dissolved in 20 mL of toluene. The toluene solution of ethylaluminum sesquichloride was slowly dropped to the 250 mL Schlenk flask at −70° C. The reaction temperature was raised to room temperature while stirring the mixture for 2 hours, and then the reaction was performed at 80° C. for 12 hours. After the reaction was completed, the reaction solution was slowly dropped to 3000 cc of 5% v/v HCl—MeOH to precipitate a white polymer, which was filtered through a glass filter and dried in a vacuum oven at 70° C. for 12 hours to obtain a norbornene-methyl acrylate copolymer (10.5 g: 52.0% by weight based on the total weight of used monomers). The copolymer had a molecular weight (Mw) of 38,500, and Mw/Mn of 2.29.

reactant | Norbornene | 168 mmol, 15.8 g | C12C=CC(CC1)C2 | C7H10
reactant | methyl acrylate | 112 mmol, 10 mL | C(C=C)(=O)OC | C4H6O2
reactant | Di-t-butylperoxide | 2.2 mmol, 0.32 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | Ethylaluminum sesquichloride | 1.12 mmol, 0.277 g | CC[Al](CC)Cl.CC[Al](Cl)Cl
reactant | HCl MeOH | Cl.CO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | norbornene methyl acrylate | C12C=CC(CC1)C2.C(C=C)(=O)OC | InChI=1S/C7H10.C4H6O2/c1-2-7-4-3-6(1)5-7;1-3-4(5)6-2/h1-2,6-7H,3-5H2;3H,1H2,2H3
